US04948794
To a solution of 3.0 g (15 mmol) 1,2,3,4-tetrahydro-3-oxo-quinoxaline-1-acetic acid in 50 ml water was added gradually a solution of 4.0 g (25 mmol) potassium permanganate in aqueous sodium hydroxide (4%, w/v) and the mixture was refIuxed for 4 h. The reaction mixture was cooled, filtered and the filtrate acidified with concentrated hydrochloric acid to pH 2.5. The precipitate was filtered off and washed with water to give 2.2 g (69%) 1-carboxymethylquinoxaline-2,3(1H,4H)- dione. M.p. >300° C. 1H-NMR (DMSO-d6): 12.0 (1 H, broad s), 7.2 (4H, s), 7.0-5.0 (1 H, broad s), 4.9 (2H, s).

reactant | 1,2,3,4-tetrahydro-3-oxo-quinoxaline-1-acetic acid | 15 mmol, 3.0 g | O=C1CN(C2=CC=CC=C2N1)CC(=O)O | C10H10N2O3
reactant | potassium permanganate | 25 mmol, 4.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 50 ml | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 1-carboxymethylquinoxaline-2,3(1H,4H)- dione | 2.2 g, 69% | C(=O)(O)CN1C(C(NC2=CC=CC=C12)=O)=O | C10H8N2O4
